US04994569
(E)-N-Cinnamyl-2-thiophenecarboxamide may be obtained in the following manner: triethylamine (8 g) and then thenoyl chloride (6.5 g) are added to a solution, maintained under a nitrogen atmosphere and at a temperature in the region of 25° C., of (E)-cinnamylamine (5.3 g) in 1,2-dichloroethane (80 cc). The suspension obtained is stirred for 1 hour at a temperature in the region of 25° C. and then poured into water (80 cc). The aqueous phase is acidified to a pH in the region of 5 with 4 N aqueous hydrochloric acid solution and then extracted with 1,2-dichloroethane (2×50 cc). The combined organic phases are washed with water (2×40 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (4 kPa) at 40° C. The residue is stirred in isopropyl ether (40 cc). The solid is separated by filtration, washed with isopropyl ether (4×10 cc) and dried in the air. (E)-N-Cinnamyl-2-thiophenecarboxamide (5 g), m.p. 110° C., is thereby obtained.

reactant | triethylamine | 8 g | C(C)N(CC)CC | C6H15N
reactant | thenoyl chloride | 6.5 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | (E)-cinnamylamine | 5.3 g | C(\C=C\C1=CC=CC=C1)N | C9H11N
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | 1,2-dichloroethane | 80 cc | ClCCCl | C2H4Cl2
solvent | water | 80 cc | O | H2O
product | (E)-N-Cinnamyl-2-thiophenecarboxamide | 5 g | C(\C=C\C1=CC=CC=C1)NC(=O)C=1SC=CC1 | C14H13NOS
